Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Dyspnea.
 
Major Surgical or Invasive Procedure:
EGD and colonoscopy

 
History of Present Illness:
This is a ___ yo man with CAD p/w dyspnea for ___ weeks, noted to 
have hct drop from 37 (___) to 27 (___) so was referred to 
the ED for further evaluation. He has been pale for 2 weeks, 
more fatigued, has had belching, and ___ edema. He notes the 
dyspnea both at rest and with exertion, but it does not 
interfere with his usual activities or with conversation. No 
cough, cp, wheezing. He denies abdominal pain, nausea, vomiting, 
orthopnea, pnd, fevers, chills, jaundice, bleeding from gums, 
hematuria, melena, brbpr, dysuria, rash, tingling, numbness. He 
notes egd approx. ___ years ago (? normal) and ___ a few months 
ago (? nl). He notes back pain recently for which he took aleve 
for about 4 days, last was 1 week ago.

In the ED: VS: 98.2 71 140/80 16 100% on RA. He was given 
albuterol. He was guaiac positive.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
CAD, s/p MI in ___
hyperlipidemia
depression/anxiety
gastritis with erosions
OA
obesity
hiatal hernia
colonic adenoma: 3 polyps removed colonoscopy ___, 3 polyps 
from rectum ___ prep, rec repeat colonoscopy in ___ 
yr ie ___
basal cell carcinoma of skin
vitamin d deficiency
CKD: baseline crt 1.4
diverticulosis
 
Social History:
___
Family History:
Father with dm, mother with ___.
 
Physical Exam:
VS: T 98.4 HR 104 BP 124/70 RR 20 Sat 96% RA
Gen: Well appearing elderly man in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present
Extremities: Trace edema bilaterally mid calf, no cyanosis, 
clubbing, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent, DTR's 2+ patellar, 
achilles, biceps, triceps, brachioradialis bilaterally, babinski 
down-going bilaterally
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admit labs:
CBC: WBC-8.4 RBC-2.90* HGB-8.1* HCT-25.2* MCV-87 MCH-27.9 
MCHC-32.1 RDW-14.3 PLT COUNT-323; diff: NEUTS-70.7* LYMPHS-19.9 
MONOS-8.5 EOS-0.2 BASOS-0.6
BMP: GLUCOSE-93 UREA N-16 CREAT-1.4* SODIUM-140 POTASSIUM-4.1 
CHLORIDE-107 TOTAL CO2-21
CK(CPK)-178

ECG: NSR (68), left axis, ___ deg av block (338)-OLD, otherwise 
nl intervals, diffuse low voltage, TWF V2, otherwise no st-t 
changes.

CXR pa/lat ___: final: 1. No acute cardiopulmonary abnormality. 

2. Moderate-sized hiatal hernia. 

Colonoscopy Report  
 
   
diverticuli appendix anal area 
Date: ___ Endoscopist(s): ___, 
M.D.
 
Patient: ___
 Ref. Phys.: ___, MD 
    Assisting Nurse(s)/
Other Personnel: ___, RN 
Birth Date: ___ ___ years) Instrument: ___ 
___) 
ID#: ___   
Medications: Fentanyl 25 micrograms 
midazolam 0.5 mg iv 
 
Indications: Iron deficiency anemia
 
  
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. The 
efficiency of a colonoscopy in detecting lesions was discussed 
with the patient and it was pointed out that a small percentage 
of polyps and other lesions can be missed with the test. A 
physical exam was performed. The patient was administered 
moderate sedation. The physical exam was performed prior to 
administering anesthesia. Supplemental oxygen was used. The 
patient was placed in the left lateral decubitus position.The 
digital exam was abnormal. Enlarged prostate. The colonoscope 
was introduced through the rectum and advanced under direct 
visualization until the cecum and ileum were reached. The 
appendiceal orifice and ileo-cecal valve were identified. 
Careful visualization of the colon was performed as the 
colonoscope was withdrawn. The colonoscope was retroflexed 
within the rectum. The procedure was not difficult. The quality 
of the preparation was good. The patient tolerated the procedure 
well. There were no complications. 
Findings:  
 Excavated Lesions A few diverticula were seen in the distal 
ascending colon. Multiple diverticula were seen in the sigmoid 
colon and distal descending colon.  
 Other normal terminal ileum  
Impression: Diverticulosis of the distal ascending colon
Diverticulosis of the sigmoid colon and distal descending colon
Normal terminal ileum
Otherwise normal colonoscopy to cecum and ileum 
Recommendations: If any questions call ___ MD at 
___. Procedures and appointments can be scheduled by 
calling ___ or by email ___ 

_________________________________
___, M.D.  

Entoroscopy Report  
 
   
vocal cords GE junction  
   
 erosions ___ part duodenum antrum 
  
erosions antrum hiatal hernia 
Date: ___ Endoscopist(s): ___, 
M.D.
 
Patient: ___
 Ref.Phys.: ___, MD 
    Assisting Nurse(s)/
Other Personnel: ___, RN 
Birth Date: ___ ___ years) Instrument: ___ 
___) 
ID#: ___ ASA Class: P2 
Medications: Midazolam 3mg 
Fentanyl 75 micrograms 
Cetacaine 
 
Indications: Iron Deficiency Anemia
 
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered 
moderate sedation. A physical exam was performed prior to 
administering anesthesia. Supplemental oxygen was used. The 
patient was placed in the left lateral decubitus position and an 
endoscope was introduced through the mouth and advanced under 
direct visualization until the third part of the duodenum was 
reached. Careful visualization of the upper GI tract was 
performed. The vocal cords were visualized. The Z-line was noted 
at 35 centimeters.The diaphragmatic hiatus was noted at 40 
centimeters.The procedure was not difficult. The patient 
tolerated the procedure well. There were no complications. 
Findings: Esophagus:  
 Lumen: A sliding large size hiatal hernia was seen, displacing 
the Z-line to 35 cm from the incisors, with hiatal narrowing at 
40 cm from the incisors.  
Stomach:  
 Mucosa: Localized discontinuous erosions of the mucosa was 
noted in the pre-pyloric region and antrum. These findings are 
compatible with NSAID or ASA use. Cold forceps biopsies were 
performed for histology at the stomach antrum.  
Duodenum:  
 Mucosa: Erythema and erosions of the mucosa were noted in the 
third part of the duodenum and fourth part of the duodenum 
compatible with duodenitis related to NSAIDS or ASPIRIN.  
Other
findings: scope was passed to mid-jejunum.  
Other
procedures: Cold forceps biopsies were performed for histology 
at the second part of the duodenum and third part of the 
duodenum to rule out sprue.  
 
Impression: Large hiatal hernia
Erosions in the pre-pyloric region and antrum compatible with 
NSAID or ASA use (biopsy)
Erythema and erosions in the third part of the duodenum and 
fourth part of the duodenum compatible with duodenitis
(biopsy)
Scope was passed to mid-jejunum.
Otherwise normal EGD to third part of the duodenum 
Recommendations: Patient likely has NSAID or Aspirin related 
damage. Consider stopping NSAIDS and adding misoprostol 200 mcg 
BID if aspirin needs to be continued. If questions please call 
or ___ at ___ or ___. 

 
Brief Hospital Course:
___ yo man with acute blood loss anemia, probable gib, and 
dyspnea.

1. Anemia, likley chronic blood loss with iron deficiency, with 
dyspnea due to same:  EGD and ___ reports as above.  Pt. 
transfused blood and iron.  HCT recovered to ___ and 
sob/dyspnea resolved.  No further bleeding seen.  ASA held until 
pt. sees primary md and outpatient GI md to re-address.  Follow 
up with pcp and gi arranged within ___ as below.

4. CKD: At baseline and remained stable.

5. CAD: continued acei, bb, statin; asa held as above

6. Hyperlipidemia: continued statin.

7. Depression/anxiety: continued klonopin.

On the day of discharge pt. was informed that he would be going 
home, so he dressed and left the hospital before I could review 
instructions and f/u plan as below with him.  I called him and 
discussed the instructions with him over the phone and he 
verbalized understanding.  The hospital is arranging a courier 
to bring him all the d/c paperwork, prescription for PPI, and 
d/c summary now - he will wait for courier to come within two 
hours of time I completed this summary.
 
Medications on Admission:
aspirin 81mg daily
lipitor 20mg daily
atenolol 25mg daily
lisinopril 5mg daily
klonipin 0.5mg qhs prn
 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.  
5. Prilosec OTC 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenal errosions and likely chronic occult GI bleeding and 
iron deficiency anemia.

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Do not take any NSAIDs: ibuprofen, alleve, advil, nuprin, etc.

Do not take your aspirin until you discuss its use again with 
your primary doctor.
 
Followup Instructions:
___